Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male w/
remote h/o recurrent pericarditis and tularemia who presents 
with
abdominal pain. Patient was in usual state of health until
yesterday morning when he awoke with severe pain in his "solar
plexus." Pain is constant and "dull" in nature and radiates to
his back. He trialed ibuprofen 600 mg yesterday evening before
bed, slept briefly, but then awoke around midnight with
resurgence of pain worse than prior. This persisted throughout
early morning, prompting him to seek medical attention. He adds
that he ate a large steak dinner and drank one glass of red wine
and two to three shots of cognac the evening prior to the onset
of his symptoms. He otherwise rarely consumes meat or alcohol
since his diagnosis of gout one year ago. With regard to
respiratory symptoms, patient reports daily productive cough on
the order of weeks to months. He thinks URI symptoms predated 
his
cough. He endorses lightheadedness, generalized weakness,
anorexia, suboptimal oral intake, nausea, and one loose stool in
the ED. He otherwise denies fevers/chills, chest pain, shortness
of breath, palpitations, or vomiting. 

In the ED, morphine 4 mg IV reduced his pain from ___ -> ___ 
in
severity. He suspects he is improving overall, but still has no
appetite.  
 
Past Medical History:
-Hospitalized for ___ in ___ thought to be related to
dehydration; intermittent chest pain unremarkable cardiac 
work-up
-Gout; allopurinol discontinued for transaminits
-Pericarditis: First episode at ___ y/o (thought to be viral), 
___ recurrent episodes, last episode ___ years prior.
-Tularemia (___)
-Babesiosis
-Appendectomy
 
Social History:
___
Family History:
-Maternal hx intracranial aneurysm
-Paternal hx kidney disease, unspecified, bladder cancer, and
prostate cancer
-Maternal GF hx AAA
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: T 98.3, HR 50, BP 139/82, RR 18, O2 98% RA
GENERAL: NAD, well-appearing
HEENT: PERRL, EOMI, anicteric sclerae, no conjunctival pallor, 
MM
dry, oropharynx clear
NECK: supple, no LAD, no JVD 
CV: bradycardic, regular rhythm, S1/S2, no m/r/g 
PULM: unlabored, good air entry, CTAB
GI: soft, normoactive, non-distended, epigastric and
periumbilical tenderness, no organomegaly, no
rigidity/guarding/rebound  
EXT: WWP, without edema
NEURO: non-focal  

DISCHARGE PHYSICAL EXAM
VITALS: 98.4°F, 59, 130/82, 17, 97% on room air.
GENERAL: NAD, well-appearing
HEENT: PERRL, EOMI, anicteric sclerae, no conjunctival pallor, 
MM
dry, oropharynx clear
NECK: supple, no LAD, no JVD 
CV: bradycardic, regular rhythm, S1/S2, no m/r/g 
PULM: unlabored, good air entry, CTAB
GI: soft, normoactive, non-distended, mild epigastric 
tenderness,
no organomegaly, no rigidity/guarding/rebound  
EXT: WWP, without edema
NEURO: non-focal   
 
Pertinent Results:
ADMISSION LABS
___ 07:00AM BLOOD Neuts-81.1* Lymphs-11.4* Monos-6.3 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-11.66*# AbsLymp-1.64 
AbsMono-0.91* AbsEos-0.10 AbsBaso-0.03
___ 07:00AM BLOOD ___ PTT-25.4 ___
___ 07:00AM BLOOD Glucose-121* UreaN-12 Creat-0.7 Na-141 
K-4.1 Cl-100 HCO3-23 AnGap-18
___ 07:00AM BLOOD ALT-88* AST-32 AlkPhos-86 TotBili-0.6
___ 07:00AM BLOOD Albumin-4.3 Calcium-9.1 Phos-2.5* Mg-1.7 
Cholest-220*
___ 07:00AM BLOOD Triglyc-92 HDL-55 CHOL/HD-4.0 
LDLcalc-147*
___ 07:20AM BLOOD Lactate-1.9

PERTINENT RESULTS
___ CTA CHEST/TORSO

FINDINGS: 

VASCULAR: Motion artifact limits evaluation of the aortic root.  
However, no definite evidence of aortic dissection.  The aorta 
is normal in caliber. 
Coronary artery calcifications are mild to moderate on this 
non-dedicated exam.  Bilateral renal arteries are patent.  The 
main portal vein appears patent.  Atherosclerotic calcifications 
in the abdominal aorta and iliac arteries are mild.
 
The main, left and right pulmonary arteries are normal in 
caliber.  This exam is not tailored for imaging of pulmonary 
embolism but no obvious large filling defect in the central 
pulmonary arteries to indicate the presence of a large acute 
central pulmonary embolus.
 
An incidental accessory left hepatic artery arising from the 
left gastric artery is a normal variant (series 2, image 102).
 
CHEST: Pericardial calcifications noted, likely the sequelae of 
prior
pericarditis.  No pericardial effusion.
 
Calcified mediastinal lymph nodes are consistent with prior 
granulomatous disease exposure.  A left paratracheal station 
lymph node is mildly enlarged measuring 14 mm in short axis, 
likely reactive in the setting of atypical left upper lobe 
infection (series 2, image 44).  Other mediastinal lymph nodes 
are prominent but not enlarged by size criteria in the right 
lower paratracheal and subcarinal stations.  No hilar or 
supraclavicular lymphadenopathy.
 
Scattered peribronchovascular nodules and tree and ___ opacities 
suggest atypical infection in the lingula and remaining left 
upper lobe (e.g., series 2, image 51, 61).  Several areas of 
focal mucous plugging are also seen in the lingula and left 
upper lobe (series 2, image 69).  Peribronchiolar wall 
thickening is very mild and could suggest also additional 
component of bronchiolitis.  Bibasilar atelectasis is 
mild-to-moderate.  The trachea is patent without aerosolized 
secretions.  Bilateral tiny calcified granulomas is consistent 
with prior granulomatous disease exposure (e.g.  Series 2, image 
67).
 
Background paraseptal emphysema is moderate and most pronounced 
in the apices.
 
No pneumothorax or pleural effusion.  No pleural calcifications.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  No evidence of focal lesions.  No evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits, without stones or 
gallbladder wall thickening.
 
PANCREAS: Peripancreatic fat stranding is moderate to severe 
most pronounced in the pancreatic head, uncinate process, and 
body.  The pancreas is normal in size without evidence of 
parenchymal calcifications.  The main pancreatic duct is not 
dilated.  A subtle area of relative hypoattenuation in the 
pancreatic body (e.g., series 2, image 123, 121) is favored to 
be edema related to pancreatitis.  No definite focal area of 
necrosis or drainable fluid collection within the pancreas or 
surrounding the pancreas.  Fat stranding and free fluid 
surrounding the second portion the duodenum is likely secondary 
to adjacent pancreatitis.  Fluid extends into the 
retroperitoneum to the left of the aorta (e.g.  Series 2, image 
159) and mostly along the right pericolic gutters and anterior 
to the right anterior pararenal fascia (series 2, image 
140-162).  Adjacent peripancreatic vessels are patent.  A few 
peripancreatic lymph nodes are measurable up to 8 mm in short 
axis and nonspecific, likely reactive.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. 
No evidence of stones, focal renal lesions, or hydronephrosis.  
No perinephric abnormality.
 
GASTROINTESTINAL: The stomach is underdistended, limiting 
evaluation.  Other than fat stranding surrounding the duodenum, 
related to the adjacent pancreatitis, small bowel loops are 
unremarkable.  No bowel obstruction. 
Bowel wall enhancement is normal.  The colon and rectum are 
within normal limits.  The appendix has normal caliber without 
evidence of fat stranding. No free air.
 
RETROPERITONEUM: No evidence of retroperitoneal lymphadenopathy 
by size
criteria, although a few peripancreatic lymph nodes are 
measurable as above.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 No evidence of pelvic or inguinal lymphadenopathy.  No free 
fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The prostate gland is normal in size.
 
BONES: No evidence of worrisome osseous lesions or acute 
fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits other than coarse calcification in the subcutaneous fat 
of the region likely sequelae prior trauma or subcutaneous 
injection (series 2, image 128).
 
IMPRESSION:
 
 
1. Findings suggesting acute interstitial pancreatitis.
2. Left upper lobe bronchiolitis and atypical lung infection.  
Enlarged left mediastinal lymph node is likely reactive.  Given 
the relatively nodular appearance of the bronchiolitis, 
difficult to exclude true pulmonary nodule. 
Due to underlying emphysema, and high risk status, recommend 
follow-up chest CT in ___ months to ensure complete resolution 
of these findings.
3. Paraseptal emphysema.  Smoking cessation is recommended.
4. Pericardial calcifications suggest sequelae of prior 
pericarditis.
5. Sequelae of prior granulomatous disease exposure.
6. Coronary artery calcifications.
7. Incidental accessory left hepatic artery.
 
RECOMMENDATION(S):  1. Given emphysema and lack of prior imaging 
for
comparison, recommend follow-up chest CT in ___ months after 
treatment to ensure resolution.
2.  Emphysema - smoking cessation recommended. 

DISCHARGE LABS
___ 07:10AM BLOOD WBC-10.8* RBC-4.26* Hgb-13.4* Hct-39.0* 
MCV-92 MCH-31.5 MCHC-34.4 RDW-13.1 RDWSD-43.5 Plt ___
___ 07:10AM BLOOD Glucose-105* UreaN-9 Creat-0.7 Na-142 
K-4.2 Cl-100 HCO3-28 AnGap-___ M with history of gout who presented with acute pancreatitis 
without clear precipitant.

ACUTE ISSUES
#PANCREATITIS
Patient presented with severe epigastric pain radiating to the 
back after large steak dinner accompanied by one glass of red 
wine ___ shots of cognac evening prior to onset of symptoms. 
Lipase of 1780. He was evaluated with CT abdomen which 
demonstrated peripancreatic stranding. He was treated with bowel 
rest, oral PPI, and then followed with a trial of low-fat diet, 
which he tolerated. No obvious etiology identified; calcium 
normal, cholesterol was 220 (LDL 147), no evidence of biliary 
disease. Alcohol quantity seems inadequate to cause this. He 
does report a car accident with possible steering wheel trauma 
10 days prior to presentation but the timeline seems 
inconsistent. He does report several mild episodes similar to 
this over prior months/years but has no prior known diagnosis of 
pancreatitis. His pain was controlled with morphine sulfate, 
discontinued by date of discharge and with Tylenol. 

#COMMUNITY-ACQUIRED PNEUMONIA
Patient presented with history of cough and shortness of breath. 
Radiographic evidence demonstrated an atypical bacterial versus 
viral pneumonia. He was treated with ceftriaxone and 
azithromycin for 4 days for treatment of community acquired 
pneumonia, discharged with azithromycin for total 5 day course. 
He was discharged with improved dyspnea. 

#BRADYCARDIA
In the ED, he was found to be in sinus bradycardia. He was 
hemodynamically stable and asymptomatic. Biomarkers were 
negative. Cardiology evaluated him with no further workup. He 
was hemodynamically stable throughout his admission.

TRANSITIONAL ISSUES
MEDICATIONS: 
- New Meds: Azithromycin (1 day, ___, for total 5-day course) 

FOLLOW-UP 
- Follow up: PCP ___, ___ at 
9:30 AM.

PENDING MICROBIOLOGY:
- Mycoplasma/Ureaplasma urine antigen study

- Incidental findings:
CT CHEST: Emphysematous changes, repeat in ___ months.
- Left upper lobe bronchiolitis and atypical lung infection. 

# CONTACT: ___, friend (___)
# CODE: FULL CODE
 
Medications on Admission:
None
 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Pancreatitis
Community Acquired Pneumonia
Bradycardia

Secondary Diagnosis
===================
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted to the hospital for abdominal pain as your 
pancreas was inflamed.  This is called pancreatitis.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- Your abdominal pain was monitored while you began to start 
eating again.
- You were treated for a lung infection ("pneumonia") with 
antibiotics.
- Your heart was noted to be beating slowly, we checked and saw 
that you DID NOT have a heart attack.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- Continue taking your medications as prescribed.
- Please continue taking the azithromycin, an antibiotic to 
treat your pneumonia.
- Please follow up with your new doctor at ___, Dr. 
___, on ___ at 9:30 AM.

We wish you the best in your recovery!

Your ___ Care Team
 
Followup Instructions:
___